US06949579B2
N-[6-chloro-5-(4-pyridyl)-1H-indazol-3-yl]butanamide
36.8 cm3 of tetrabutylammonium fluoride as a 1M solution in tetrahydrofuran are added to 3 g of N-[6-chloro-5-(4-nitrophenyl)-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide, described previously, in 135 cm3 of tetrahydrofuran. The medium is then refluxed for 18 hours and is then allowed to return to room temperature to add 100 cm3 of ethyl acetate and 75 cm3 of saturated aqueous sodium hydrogen carbonate solution. The organic phase is separated out after settling of the phases has taken place, washed with 100 cm3 of saturated aqueous sodium hydrogen carbonate solution and then with 100 cm3 of saturated sodium chloride solution, dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2 kPa; 45° C.). The residue is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 2 cm), eluting with a cyclohexane/ethyl acetate mixture (80/20 by volume). The fractions containing the expected product are combined and concentrated to dryness under reduced pressure (2 kPa; 50° C.); the residue is taken up in 35 cm3 of diisopropyl ether, filtered off on a sinter funnel and then washed with 2×20 cm3 of diisopropyl ether. After drying (90 Pa; 50° C.), 88 mg of N-[6-chloro-5-(4-nitrophenyl)-1H-indazol-3-yl]butanamide are obtained in the form of yellow crystals melting at 260° C.

reactant | tetrabutylammonium fluoride | 36.8 cm3 | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | N-[6-chloro-5-(4-nitrophenyl)-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide | 3 g | ClC1=C(C=C2C(=NN(C2=C1)COCC[Si](C)(C)C)NC(CCC)=O)C1=CC=C(C=C1)[N+](=O)[O-] | C23H29ClN4O4Si
reactant | ethyl acetate | 100 cm3 | C(C)(=O)OCC | C4H8O2
reactant | sodium hydrogen carbonate | 75 cm3 | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 135 cm3 | O1CCCC1 | C4H8O
product | N-[6-chloro-5-(4-pyridyl)-1H-indazol-3-yl]butanamide | ClC1=C(C=C2C(=NNC2=C1)NC(CCC)=O)C1=CC=NC=C1 | C16H15ClN4O
